US07132533B2
2-(3,4-Dihydroisoquinolin-2(1H)-yl)-N-(6-oxo-2-phenyl-5,6-dihydro-1H-[1,2]diazepino[4,5,6-cd]indol-8-yl)acetamide
In a manner analogous to that of Example 11, to a stirred solution of 8-amino-1,5-dihydro-6H-[1,2]diazepino[4,5,6-cd] indol-6-one in anhydrous N,N-dimethylformamide (6 mL) was added 3,4-dihydroisoquinolin-2(1H)-ylacetic acid (62 mg, 0.33 mmol) followed by triethylamine (0.14 mL, 0.98 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (372 mg, 0.98 mmol). The reaction was stirred at room temperature for 17 hours. After concentrating, water was added and the precipitated solid was collected by filtration. After preparative HPLC, the title compound (50 mg) was obtained as a yellow powder in 34% yield.

reactant | 8-amino-1,5-dihydro-6H-[1,2]diazepino[4,5,6-cd] indol-6-one | NC=1C=C2C=3C(=CNC3C1)C=NNC2=O | C10H8N4O
reactant | 3,4-dihydroisoquinolin-2(1H)-ylacetic acid | 0.33 mmol, 62 mg | C1N(CCC2=CC=CC=C12)CC(=O)O | C11H13NO2
reactant | triethylamine | 0.98 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.98 mmol, 372 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 2-(3,4-Dihydroisoquinolin-2(1H)-yl)-N-(6-oxo-2-phenyl-5,6-dihydro-1H-[1,2]diazepino[4,5,6-cd]indol-8-yl)acetamide | 50 mg, 34% yield | C1N(CCC2=CC=CC=C12)CC(=O)NC=1C=C2C=3C(=C(NC3C1)C1=CC=CC=C1)C=NNC2=O | C27H23N5O2
